Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right hand weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ RHF with pmhx of HTN, HLD and
blindness who presents with chief complaint of sudden onset hand
weakness. 

Patient was in her usual state of health till around ___ 
evening
when she felt her right hand was weak. She states she was unable
to grab on to the pill bottle well and felt as if her hand was
asleep. Patient states she did not feel her hand was clumsy.
Denied associated arm/leg/face symptoms. No N/V, no dizziness,
numbness or tingling anywhere else. Per patient she still feels
the same symptoms however slightly improved in intensity. CT 
scan
at OSH showed chronic microvascular ischemic change. She went to
___ who gave her one dose of ASA and transferred her to ___
for further workup for possible stroke. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. No vertigo, tinnitus, hearing
difficulty, dysarthria, or dysphagia. Denies focal muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, dysuria or rash.

 
Past Medical History:
DM, HLD, uterine fibroids, blindness
 
Social History:
___
Family History:
No family history of early stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
 General: NAD, resting in bed
 HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
 Neck: Supple
 ___: RRR
 Pulmonary: CTAB
 Abdomen: Soft, NT, ND
 Extremities: Warm, no edema
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. Rt pronator drift with weak gem.
No tremor or asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5
 R  5    ___ 4+  ___   5    5  5 
- Sensory - No deficits to light touch

-DTRs:
   ___ Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2
 Plantar response mute bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE PHYSICAL EXAM: 
Vitals: Tm 98.7, HR 62-75, RR ___, BP 157-172/67-71, >97%RA
General: NAD, sitting up in bed
HEENT: NCAT, left eye sclerotic, right eye anicteric, no 
oropharyngeal lesions, moist mucous membranes
Neck: Supple
___: RRR, well perfused 
Pulmonary: Normal WOB
Abdomen: Soft, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Speech is fluent 
in ___ with full sentences, intact repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. 

- Cranial Nerves - Left eye sclerotic, right pupil reactive 
3to2mm. Unable to see light with the left eye, legally blind in 
right eye, eomi, no nystagmus. V1-V3 without deficits to light 
touch bilaterally. Subtle R NLFF with good activation. Decreased 
hearing bilaterally. No dysarthria. Palate elevation symmetric. 
Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. R pronator drift.
No tremor or asterixis.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5
 R  4+   5   4+  ___  ___    5  5     5
- Sensory - No deficits to light touch

-DTRs:
   ___ Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2
 Plantar response mute bilaterally.

- Coordination - No dysmetria reaching for objects although 
limited by R hand weakness

- Gait - able to ambulate independently

 
Pertinent Results:
___ 05:55AM BLOOD WBC-3.5* RBC-3.64* Hgb-11.5 Hct-33.9* 
MCV-93 MCH-31.6 MCHC-33.9 RDW-13.7 RDWSD-46.8* Plt ___
___ 01:00AM BLOOD Neuts-55.8 ___ Monos-13.5* 
Eos-1.6 Baso-0.8 Im ___ AbsNeut-2.03 AbsLymp-1.02* 
AbsMono-0.49 AbsEos-0.06 AbsBaso-0.03
___ 09:43AM BLOOD ___ PTT-35.1 ___
___ 05:55AM BLOOD Glucose-85 UreaN-10 Creat-0.8 Na-135 
K-3.4 Cl-97 HCO3-25 AnGap-14
___ 09:43AM BLOOD ALT-14 AST-21 AlkPhos-81 TotBili-0.3
___ 09:43AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:55AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.1
___ 09:43AM BLOOD Albumin-4.0 Calcium-8.9 Phos-3.4 Mg-2.1 
Cholest-149
___ 09:43AM BLOOD %HbA1c-6.5* eAG-140*
___ 09:43AM BLOOD Triglyc-61 HDL-66 CHOL/HD-2.3 LDLcalc-71
___ 09:43AM BLOOD TSH-1.0
___ 01:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING: 
MRI/A ___:
FINDINGS:  

MRI BRAIN: 
There is slow diffusion surrounding the left paracentral gyrus 
with associated FLAIR hyperintensity.  There is no evidence of 
intracranial hemorrhage.  There is mild diffuse parenchymal 
volume loss.  There is moderate nonspecific periventricular 
subcortical FLAIR hyperintensities, likely a sequela of chronic 
small vessel ischemic disease.  There is a focus of chronic 
infarction in the left midbrain (8:8).  The ventricles are 
normal in size without mass effect or midline shift.  The major 
visualized arterial vascular flow voids are preserved.  There is 
mild mucosal thickening of the bilateral ethmoid air cells.  
There is a 1.3 x 1.2 cm cystic lesion within the left nasal 
cavity anteriorly demonstrating intrinsic T1 and T2 
hyperintensity with layering hemorrhagic content, likely 
representing a nasolabial cyst with proteinaceous content. 
  
MRA BRAIN: 
The bilateral intracranial internal carotid arteries and 
vertebral arteries in the principal intracranial branches appear 
patent without stenosis, occlusion, or aneurysm. 
  
MRA NECK: 
The bilateral common carotid arteries and internal carotid 
arteries appear 
patent without internal carotid artery stenosis by NASCET 
criteria.  The 
bilateral vertebral arteries appear patent.  The bilateral 
visualized 
subclavian arteries and origins of great vessels appear patent. 
  
IMPRESSION: 
1. Acute to early subacute infarction in the left paracentral 
gyrus. 
2. No evidence of intracranial hemorrhage. 
3. Diffuse parenchymal volume loss with moderate chronic small 
vessel ischemic disease. 
4. Focus of chronic infarction in the left midbrain. 
5. 1.3 cm left nasal labial proteinaceous cyst with hemorrhagic 
content. 
6. MRA brain demonstrates no stenosis, occlusion, or aneurysm of 
the major 
intracranial branches. 
7. MRA neck demonstrates patency of the bilateral common and 
internal carotid arteries and the vertebral arteries. 

 
Brief Hospital Course:
Ms. ___ is a ___ right-handed female with 
history of HTN, HLD and blindness who presented with acute onset 
right hand weakness and numbness after being at home and 
noticing that she was unable to grab onto a pill bottle well and 
felt as if her hand was asleep.  

She went to ___ where she had a head CT that showed 
chronic microvascular ischemic change but no acute process; she 
received one dose of ASA and was transferred to ___ for further 
workup.  MRI showed an acute to early subacute infarction in the 
left paracentral gyrus with moderate chronic small vessel 
ischemic disease.  MRA head and neck were unremarkable.  
Etiology likely artery to artery atherothrombolic vs. 
cardioembolic.  She had a TTE that showed normal LA size, no 
PFO, mild symmetric LVH with normal LV EF >55%; mild dilatation 
of the aorta with mild to moderate AR and mild MR.  ___ was 
monitored on telemetry with no evidence of arrhythmia.  She will 
be discharged with ___ of Hearts monitor.  She had stroke 
risk factors including HbA1c 6.5%, LDL 71, TSH 1.0.  She should 
___ with her PCP to follow her blood sugars and consider 
initiation of treatment for DM if they remain high.  She was 
continued on her home pravastatin 20mg daily given LDL 71.  She 
was continued on aspirin 81mg daily and started on Plavix 75mg 
daily for a 3 month course.  She was evaluated by ___ and OT who 
recommended discharge home with 24 hour care which her daughter 
stated she can provide.  She will have outpatient Neurology and 
PCP ___.  

Discharge Issues:
___ with PCP ___: HbA1c 
2.      Monitor blood pressures on current regiment
3       Continue Plavix for 3 months then stop.  Continue 
aspirin.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Labetalol 100 mg PO TID 
2. Valsartan 160 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 
6. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Clopidogrel 75 mg PO DAILY 
Take for 3 months then stop 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
3.  amLODIPine 5 mg PO DAILY  
4.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Labetalol 100 mg PO TID  
7.  Pravastatin 20 mg PO QPM  
8.  Valsartan 160 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left paracentral gyrus infarction

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were hospitalized due to symptoms of right hand weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Hypertension
High cholesterol

We are changing your medications as follows:
Continue Aspirin 81mg daily
START Plavix 75mg daily for 3 months then stop
 
Please take your other medications as prescribed.

Please ___ with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___